US06809110B2
The solution of 3.87 g (20 mmol) of 4-tert-butyl-thiobenzamide and 3.45 g (21 mmol) of ethyl 2-chloro-acetoacetate in 15 ml of ethanol was heated at reflux for 3 hours. Afterwards, the reaction mixture was cooled to ambient temperature and a solution of 3 g of potassium bicarbonate in 15 ml of water was added and the mixture was stirred until the gas evolution (CO2) had ceased. The compound was then extracted with 3 portions of 50 ml of tert-butyl methyl ether, the combined organic phases were washed with water, then with brine, dried over anhydrous sodium sulfate and finally evaporated. 5.3 g of 2-(4-tert-butyl-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester (87.4% of theory) were obtained as pale yellow viscous oil.

reactant | 4-tert-butyl-thiobenzamide | 20 mmol, 3.87 g | C(C)(C)(C)C1=CC=C(C(=S)N)C=C1 | C11H15NS
reactant | ethyl 2-chloro-acetoacetate | 21 mmol, 3.45 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | potassium bicarbonate | 3 g | C([O-])(O)=O.[K+]
reactant | CO2 | C(=O)=O | CO2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 2-(4-tert-butyl-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 5.3 g, 87.4% | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(C)(C)C)C | C17H21NO2S
